Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
aspirin
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
___: exercise stress test
___: regadenoson stress test
 
History of Present Illness:
Patient is a ___ with history of traumatic thoracic stab wound
(R) c/b pneumothorax and GERD who presents with chronic,
intermittent left-sided chest pain.

Patient describes intermittent, non-exertional chest pain for 
the
past ___.  The discomfort is left-sided, ___ in severity
(sometimes up to ___, stabbing in quality, and lasting on the
order of ___.  There is no associated nausea,
dizziness/lightheadedness or palpitations.  Patient does endorse
mild SOB and increased pain when taking a deep breath.  No 
vision
changes or syncopal episodes.  Patient says that he recently was
evaluated by his PCP who recommended that he present to the ED
for evaluation.    

In the ED, initial vitals: 96.9 84 151/83 16 100% RA   

- Exam notable for 
Regular rate and rhythm no murmurs rubs or gallops
Clear to auscultation bilaterally
2+ radial pulse and dorsalis pedis 

- Labs were notable for:
CBC 6.6>13.7/42.5<294
BMP ___
HbA1C 4.5%
Troponin-T <.01 x2
TSH 1.6
Total cholesterol 257   

- Studies:  
ECG NSR (67bpm), normal axis, normal intervals, isolated TWI 
III,
submm STE V2-3. 

CXR ___
FINDINGS:  
The lungs are clear. There is no consolidation, effusion, or
pneumothorax.  Changes noted at the distal right clavicle,
potentially from remote prior injury. No acute osseous
abnormalities. 
IMPRESSION:  
No acute cardiopulmonary process, no pneumothorax. 

STRESS ___
INTERPRETATION: This ___ year old man with a h/o HLD was referred
to the lab for evaluation of atypical chest and shortness of
breath. The patient exercised for 3.0 minutes ___ protocol
and the test was stopped for a hypertensive systolic blood
pressure repsonse to exercise. 
There were no chest, neck, arm or back discomforts reported by
the patient throughout the study, however at peak exercise the
patient reported inappropriate shortness of breath, which
improved with rest during recovery. There were no significant ST
segment changes seen during exercise or in recovery. The rhythm
was sinus without ectopy; two P wave morphologies noted. Resting
systolic hypertension with a markedly hypertensive systolic 
blood
pressure response to exercise. Appropriate heart rate response 
to
low workload.   
IMPRESSION: Atypical type symptoms in the absence of ischemic 
EKG
changes and presence of markedly hypertensive systolic blood
pressure response to low workload.
- Patient was given: NOTHING  

- Vitals prior to transfer were: 98.8 75 137/80 23 98% RA   

On arrival to the floor, patient recounts the history as above. 
The last time he experienced any chest discomfort was yesterday. 

He says that he became 'so short of breath' during the stress
test, but did not experience any chest pain.  Of note, patient
was stabbed on the right side of his back (superior), causing a
PTX.  He was also hit by a car door some time ago, an impressive
impact.  Patient was recently restarted on an H2 blocker for
reflux symptoms.   

REVIEW OF SYSTEMS:  
A complete 10-point review of systems was performed and was
negative less otherwise noted in the HPI.  
 
Past Medical History:
GERD
Traumatic PTX
 
Social History:
___
Family History:
Sister with T2DM (___)
Mother with T2DM (___)
Multiple uncles, grandmother with T2DM
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
VS: 98.3 156/96 75 20 97 Ra  
GENERAL: Pleasant, lying in bed comfortably.  
HEENT: PERRL, no scleral icterus.  OP clear with MMM.  
CARDIAC: Soft s1.  Regular rate and rhythm, no murmurs, rubs, or
gallops.  
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.  
ABD: Normal bowel sounds, soft, nontender, nondistended, no
hepatomegaly, no splenomegaly.  
EXT: Warm, well perfused, no lower extremity edema.  
PULSES: 2+ radial pulses, 2+ DP pulses.  
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact.

DISCHARGE PHYSICAL EXAM
========================
VS: Temp: 98.5 PO BP: 143/86 HR: 67 RR: 18 O2 sat: 96% O2
delivery: RA 
GENERAL: No acute distress, pleasant and conversant
HEENT: PERRL, no scleral icterus.  OP clear with MMM.  
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops.  

LUNG: clear to auscultation bilaterally, no crackles, wheezes, 
or
rhonchi.  
ABD: Normal bowel sounds, soft, nontender, nondistended, no
hepatomegaly, no splenomegaly.  
EXT: Warm, well perfused, no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses, 2+ DP pulses.  
NEURO: AAOx2, CN II-XII intact, motor and sensory function
grossly intact.
SKIN: No significant rashes.
 
Pertinent Results:
ADMISSION LABS
================
___ 06:00PM BLOOD Neuts-61.2 ___ Monos-7.3 Eos-1.1 
Baso-0.5 Im ___ AbsNeut-4.02 AbsLymp-1.95 AbsMono-0.48 
AbsEos-0.07 AbsBaso-0.03
___ 06:00PM BLOOD WBC-6.6 RBC-4.68 Hgb-13.7 Hct-42.5 MCV-91 
MCH-29.3 MCHC-32.2 RDW-13.6 RDWSD-44.7 Plt ___
___ 06:00PM BLOOD Plt ___
___ 06:00PM BLOOD Glucose-88 UreaN-10 Creat-1.0 Na-142 
K-4.5 Cl-104 HCO3-24 AnGap-14
___ 06:00PM BLOOD Cholest-257*
___ 06:00PM BLOOD %HbA1c-4.5 eAG-82
___ 06:00PM BLOOD TSH-1.6

DISCHARGE LABS
===============
___ 06:05AM BLOOD WBC-6.6 RBC-4.74 Hgb-13.8 Hct-42.5 MCV-90 
MCH-29.1 MCHC-32.5 RDW-13.2 RDWSD-43.4 Plt ___
___ 06:05AM BLOOD Plt ___
___ 06:05AM BLOOD ___ PTT-37.0* ___
___ 06:05AM BLOOD Glucose-90 UreaN-13 Creat-1.0 Na-140 
K-4.4 Cl-101 HCO3-25 AnGap-14
___ 06:05AM BLOOD Calcium-9.6 Phos-3.7 Mg-2.3

STUDIES
========
EXERCISE STRESS ___
ERPRETATION: This ___ year old man with a h/o HLD was referred to 

the lab for evaluation of atypical chest and shortness of 
breath. The 
patient exercised for 3.0 minutes ___ protocol and the test 
was 
stopped for a hypertensive systolic blood pressure repsonse to 
exercise. 
There were no chest, neck, arm or back discomforts reported by 
the 
patient throughout the study, however at peak exercise the 
patient 
reported inappropriate shortness of breath, which improved with 
rest 
during recovery. There were no significant ST segment changes 
seen 
during exercise or in recovery. The rhythm was sinus without 
ectopy; two 
P wave morphologies noted. Resting systolic hypertension with a 
markedly 
hypertensive systolic blood pressure response to exercise. 
Appropriate 
heart rate response to low workload. 
  
IMPRESSION: Atypical type symptoms in the absence of ischemic 
EKG 
changes and presence of markedly hypertensive systolic blood 
pressure 
response to low workload. 

REGADENOSON STRESS ___
INTERPRETATION: This ___ year old man was referred to the lab for 

evaluation of chest discomfort. He was infused with 0.4 mg of 
regadenoson over 20 seconds. No chest, arm, neck or back 
discomfort 
reported. No significant ST segment changes noticed. Rhythm was 
sinus 
with no ectopy. Appropriate hemodyanmic response to the infusion 
with 
systolic hypertensive response noticed in recovery. 
IMPRESSION : No anginal symptoms or ST segment changens. Nuclear 
report 
sent separately. 

 
Brief Hospital Course:
SUMMARY STATEMENT
==================
Mr. ___ is a ___ year old man with a past medical history of 
right-sided traumatic thoracic stab wound complicated by 
pneumothorax and GERD who presents with chronic, intermittent 
left-sided chest pain. He was unable to complete an exercise 
stress test in the emergency department due to extreme shortness 
of breath and was admitted for further workup. Problems 
addressed during his hospitalization are as follows:

#Chest pain:
Low suspicion for cardiac etiology. His symptoms are 
non-exertional, troponins negative x2, no EKG ischemic changes. 
Exercise stress test with no ischemic EKG changes, although was 
terminated early due to shortness of breath and blood pressure 
of 258/96. Regadenoson stress test with no anginal symptoms or 
ST segment changes. Nuclear prelim read unremarkable. 
Additionally, he has no family history of early MI, A1c was 
4.5%. Smokes marijuana daily, but no tobacco. The etiology of 
his chest pain may be musculoskeletal or gastrointestinal 
(esophageal spasm). The morning of discharge, he had one 
transient episode of dizziness and palpitations with standing 
that resolved spontaneously, orthostatics vitals were negative.

#Hypertension:
On review of ___ records, has been hypertensive chronically, 
on no agents prior to presentation. In-house his BP ranged from
140-160s/70-90s, and his blood pressure notably rose to 258/90
during his exercise stress test as above. Initiated lisinopril 
10 mg daily.

#GERD 
Continued home ranitidine

TRANSITIONAL ISSUES:
======================
[] f/u final read nuclear stress test
[] continue to monitor blood pressure and titrate lisinopril 
which was initiated on admission. Will need repeat BUN/Cr given 
lisinopril initiation.
[] consider further dyslipidemia workup (total cholesterol 257)
[] continue to encourage marijuana cessation
[] continue to monitor anxiety, was very restless throughout 
hospitalization
[] given unremarkable stress test results, may consider 
initiating a PPI for 8 weeks or esophageal motility studies
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ranitidine 150 mg PO BID 

 
Discharge Medications:
1.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 (One) tablet(s) by mouth DAILY Disp #*30 
Tablet Refills:*0 
2.  Ranitidine 150 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Chest pain
#Hypertension
#GERD
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at the ___ 
___.

WHY DID I COME TO THE HOSPITAL?
--You came to the hospital because you developed chest pain.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
--We evaluated your heart with a "stress test" during which you 
exercised and we monitored your heart. During this test, you had 
difficulty breathing. We performed a second stress test which 
showed that your heart function is normal.
--Your blood pressure was high. We started you on a new 
medication called "lisinopril" to help lower your blood 
pressure.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
--Please continue to take your medications as prescribed and to 
follow-up with your doctors as ___.

We wish you all the best!
Your ___ care team
 
Followup Instructions:
___